US09126999B2
Example ER-895811 was prepared in two steps from 3-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)benzoic acid (24 mg, 0.054 mmol) and commercially available (S)-tert-butyl 3-aminopyrrolidine-1-carboxylate (40 mg, 0.215 mmol) in a manner similar to that of example D-6 to afford intermediate (3S)-tert-butyl 3-(3-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)benzamido)pyrrolidine-1-carboxylate (7 mg, 0.011 mmol, 21% yield). Then, this intermediate (6 mg, 0.0097 mmol) was treated with HCl in a manner similar to that of example ER-897560 to afford the desired product ER-895811 (4.4 mg, 82% yield).

reactant | 3-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)benzoic acid | 0.054 mmol, 24 mg | COC=1C=C(C=CC1OC)C1NC=2N(C(C1)C(F)(F)F)N=C(C2)C=2C=C(C(=O)O)C=CC2 | C22H20F3N3O4
reactant | (S)-tert-butyl 3-aminopyrrolidine-1-carboxylate | 0.215 mmol, 40 mg | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
product | (3S)-tert-butyl 3-(3-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)benzamido)pyrrolidine-1-carboxylate | 0.011 mmol, 7 mg, 21% yield | COC=1C=C(C=CC1OC)C1NC=2N(C(C1)C(F)(F)F)N=C(C2)C=2C=C(C(=O)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C=CC2 | C31H36F3N5O5
